US07951810B2
Step b: N-[9-((3aR,4R,6R,6aR)-6-Hydroxymethyl-2,2-dimethyl-tetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-9H-purin-6-yl]-benzamide
N-{9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(hydroxymethyl)tetrahydrofuran-2-yl]-9H-purin-6-yl}benzamide (0.643 g, 1.73 mmol), 2,2-dimethoxypropane (1.06 mL, 8.66 mmol), and para-toluenesulfonic acid monohydrate (0.333 g, 1.73 mmol) were dissolved in acetone (43 mL). The solution was stirred at room temperature overnight and then heated to 40° C. for 3 hours. Once cooled to room temperature, saturated sodium bicarbonate solution was added to the reaction mixture and then approximately half the solvent was removed in vacuo. The resulting solution was diluted with water and extracted four times with CH2Cl2. Combined organics were washed with brine and dried over Na2SO4. The crude material was purified by silica gel chromatography (0 to 5% MeOH/CH2Cl2) to isolate the title compound (0.419 g, 59%)

reactant | N-{9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(hydroxymethyl)tetrahydrofuran-2-yl]-9H-purin-6-yl}benzamide | 1.73 mmol, 0.643 g | O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC=NC(=C2N=C1)NC(C1=CC=CC=C1)=O | C17H17N5O5
reactant | 2,2-dimethoxypropane | 8.66 mmol, 1.06 mL | COC(C)(C)OC | C5H12O2
reactant | para-toluenesulfonic acid monohydrate | 1.73 mmol, 0.333 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | 43 mL | CC(=O)C | C3H6O
product | N-[9-((3aR,4R,6R,6aR)-6-Hydroxymethyl-2,2-dimethyl-tetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-9H-purin-6-yl]-benzamide | 0.419 g, 59% | OC[C@H]1O[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C1=NC=NC(=C1N=C2)NC(C2=CC=CC=C2)=O | C20H21N5O5
